US08802679B2
tert-Butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate (300 mg) was dissolved in DMF (6 ml), and nicotinic acid (150 mg), WSC hydrochloride (233 mg), and HOBt (165 mg) were added thereto, followed by stirring at room temperature for 20 hours. Water was added thereto, followed by extraction with EtOAc. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH=20/1) to obtain tert-butyl {2-[methyl({4′-[(pyridin-3-ylcarbonyl)amino]biphenyl-3-yl}methyl)amino]-2-oxoethyl}carbamate (328 mg).

reactant | tert-Butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate | 300 mg | NC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C21H27N3O3
reactant | nicotinic acid | 150 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | WSC hydrochloride | 233 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 165 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl {2-[methyl({4′-[(pyridin-3-ylcarbonyl)amino]biphenyl-3-yl}methyl)amino]-2-oxoethyl}carbamate | 328 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)NC(=O)C=1C=NC=CC1 | C27H30N4O4
